US07645776B2
6-(5-Piperidin-2-yl-1H-[1,2,4]triazol-3-yl)-4H-benzo[1,4]oxazin-3-one
1.5 mmol of 2-Hydrazinocarbonyl-piperidine-1-carboxylic acid tert-butyl ester were dissolved in 3 ml DMF. 1 eq of 3-Oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxamidine and 90 ul acetic acid were added and the reaction mixture heated to 120° C. overnight. The solvent was evaporated and the crude extracted from ethylacetate/water. The resulting oil was taken up in 15 ml DCM and treated with 3 ml TFA. The reaction mixture was reduced to dryness.

reactant | 2-Hydrazinocarbonyl-piperidine-1-carboxylic acid tert-butyl ester | 1.5 mmol | C(C)(C)(C)OC(=O)N1C(CCCC1)C(=O)NN | C11H21N3O3
reactant | 3-Oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxamidine | 1 eq | O=C1COC2=C(N1)C=C(C=C2)C(=N)N | C9H9N3O2
reactant | acetic acid | 90 ul | C(C)(=O)O | C2H4O2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 6-(5-Piperidin-2-yl-1H-[1,2,4]triazol-3-yl)-4H-benzo[1,4]oxazin-3-one | N1C(CCCC1)C1=NC(=NN1)C=1C=CC2=C(NC(CO2)=O)C1 | C15H17N5O2
